US04460773
In 50 ml of sec.-butanol was dissolved 2.1 g (0.091 mole) of metallic sodium, and then, 10.0 g (0.043 mole) of 5-chloro-phenyl-1H-pyrazolo[3,4-b]pyrazine was added to the solution. The mixture was heated under reflux for 2 hours. After completion of the reaction, the excessive amount of sec.-butanol was removed by distillation under a reduced pressure. The residue was washed with water, dried and then recrystallized from hexane to obtain 6.2 g (the yield was 53%) of 5-sec.-butoxy-1-phenyl-1H-pyrazolo[3,4-b]pyrazine in the form of a colorless needle crystal.

reactant | sodium | 0.091 mole, 2.1 g | [Na] | Na
reactant | 5-chloro-phenyl-1H-pyrazolo[3,4-b]pyrazine | 0.043 mole, 10.0 g | ClC=1C=CC=C(C1)N1N=CC=2C1=NC=CN2 | C11H7ClN4
reactant | sec.-butanol | 50 ml | C(C)(CC)O | C4H10O
product | 5-sec.-butoxy-1-phenyl-1H-pyrazolo[3,4-b]pyrazine | yield was 53% | C(C)(CC)OC=1N=C2C(=NC1)N(N=C2)C2=CC=CC=C2 | C15H16N4O
